US04503073
5-Chloro-7-(4-fluorobenzoyl)-3-methylthioindolin-2-one
A solution of 54.0 g (0.216 mole) of 4-chloro-4'-fluoro-2-aminobenzophenone in 700 ml of methylene chloride was cooled to -65° C. and 30.5 g (0.227 mol) of ethyl-2-methylthioacetate was added. Twenty six (26) g (0.227 mol) of 95% tertiary butoxy chloride was added dropwise under stirring over a 20 minute period while maintaining the temperature of the solution at -65° C. The resulting light brown yellow solution was stirred at -70° C. for one hour and 25 g (0.25 mol) of triethylamine was added to the solution. This mixture was allowed to warm to room temperature and 400 ml of 3N HCl was added to the mixture. The resulting mixture was heated at reflux temperature under vigorous stirring for 2 hrs. The resulting organic phase was separated, washed with 100 ml of water and dried. The methylene chloride was evaporated and the residue triturated with diethyloxide. The resulting solid was collected by filtration, washed and dried to give 35.1 g of product. The product was crystallized to give 31.1 g (43%) of the titled compound as off-white crystals, mp. 202°-204° C.

reactant | 4-chloro-4'-fluoro-2-aminobenzophenone | 0.216 mole, 54.0 g | ClC1=CC(=C(C(=O)C2=CC=C(C=C2)F)C=C1)N | C13H9ClFNO
reactant | ethyl-2-methylthioacetate | 0.227 mol, 30.5 g | C(C)OC(CC)=S | C5H10OS
reactant | tertiary butoxy chloride | 0.227 mol | C(C)(C)(C)OCl | C4H9ClO
reactant | triethylamine | 0.25 mol, 25 g | C(C)N(CC)CC | C6H15N
reactant | HCl | 3N, 400 ml | Cl | ClH
solvent | methylene chloride | 700 ml | C(Cl)Cl | CH2Cl2
product | 5-Chloro-7-(4-fluorobenzoyl)-3-methylthioindolin-2-one | 35.1 g | ClC=1C=C2C(C(NC2=C(C1)C(C1=CC=C(C=C1)F)=O)=O)SC | C16H11ClFNO2S
